US04152511
EXAMPLE 46--Preparation of 1,4-bis-(p-carbomethoxyphenoxymethyl)-2,3,5,6-tetrabromobenzene
In a six-liter flask equipped with stirrer, reflux condenser and thermometer, 608.6 L g (4 moles) of 4-hydroxybenzoic acid methyl ester was suspended in 3.5 liters of methyl glycol, and by the addition of 160 g (4 moles ) of sodium hydroxide in 160 ml of water was transformed to a solution of the phenolate. Then, at about 35°-40° C., with stirring, 981.3 g (2 moles) of 1,4-bis-(chloromethyl)-2,3,5,6-tetrabromobenzene was put in, and the reaction mixture was raised steadily to the boiling temperature, with stirring. After an internal temperature of about 90° C. was reached, reaction started, with the formation of a colorless, voluminous precipitate. The reaction mixture, after becoming increasingly thick, became thinner again at the boiling temperature. It was refluxed for 1.5 hours, then cooled down to room temperature; the precipitate was suction filtered and washed free of sodium chloride with water, and dried.

reactant | 4-hydroxybenzoic acid methyl ester | 4 moles | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | sodium hydroxide | 4 moles, 160 g | [OH-].[Na+]
reactant | phenolate | C1(=CC=CC=C1)[O-]
reactant | 1,4-bis-(chloromethyl)-2,3,5,6-tetrabromobenzene | 2 moles, 981.3 g | ClCC1=C(C(=C(C(=C1Br)Br)CCl)Br)Br | C8H4Br4Cl2
reactant | methyl glycol | 3.5 liters | COCCO | C3H8O2
solvent | water | 160 ml | O | H2O
product | 1,4-bis-(p-carbomethoxyphenoxymethyl)-2,3,5,6-tetrabromobenzene | C(=O)(OC)C1=CC=C(OCC2=C(C(=C(C(=C2Br)Br)COC2=CC=C(C=C2)C(=O)OC)Br)Br)C=C1 | C24H18Br4O6
